US04200748
9-Amino-1,2,3,4,4a,5-hexahydropyrido[1',2':4,5][1,4]oxazino[2,3-b]quinoxaline
A mixture of 5.72 g. of 1,2,3,4,4a,5-hexahydro-9-nitropyrido[1',2':4,5][1,4]oxazino[2,3-b]quinoxaline, 200 ml. of dioxane and 1.5 g. of palladium on carbon catalyst is shaken in a Parr hydrogenator under 45 lb. of hydrogen pressure until reduction is complete. The mixture is filtered and the filtrate concentrated to a residue. The residue is recrystallized from ethanol to give the desired product, m.p. 229°-232° C.

reactant | 1,2,3,4,4a,5-hexahydro-9-nitropyrido[1',2':4,5][1,4]oxazino[2,3-b]quinoxaline | [N+](=O)([O-])C=1C=CC=2N=C3C(=NC2C1)OCC1N3CCCC1 | C14H14N4O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 9-Amino-1,2,3,4,4a,5-hexahydropyrido[1',2':4,5][1,4]oxazino[2,3-b]quinoxaline | NC=1C=CC=2N=C3C(=NC2C1)OCC1N3CCCC1 | C14H16N4O
